US05691384
Combine 1-(4-chlorobutoxy)phenyl-1,2-diphenyl ethanol (17.0 kg, 20.2 mol) and methanol (30 L). Add aqueous 3M hydrochloric acid solution (40 L). Heat to reflux. After 2 hours, remove most of the methanol by distillation and cool the aqueous reaction mixture. Extract with chloroform. Extract the organic layer with aqueous saturated sodium carbonate solution. Separate the organic layer and evaporate in vacuo to give (E and Z)-1-(4-chlorobutoxy)phenyl-1,2-diphenyl ethylene.

reactant | 1-(4-chlorobutoxy)phenyl-1,2-diphenyl ethanol | 20.2 mol, 17.0 kg | ClCCCCOC1(CC=CC=C1)C(CC1=CC=CC=C1)(O)C1=CC=CC=C1 | C24H27ClO2
reactant | hydrochloric acid | 3M, 40 L | Cl | ClH
solvent | methanol | 30 L | CO | CH4O
product | 1-(4-chlorobutoxy)phenyl-1,2-diphenyl ethylene | ClCCCCOC1(CC=CC=C1)C(=CC1=CC=CC=C1)C1=CC=CC=C1 | C24H25ClO
